US06063734
21.35 g of phosphorus oxychloride was dropwise added to 4.72 g of DMF at 10° C. or lower. After the temperature of the reaction solution was returned to room temperature, the reaction mixture was stirred for 1 hour, and 10.71 g of 1-methyl-3-trifluoromethyl-5-pyrazolone was added thereto. The resulting mixture was heated up to 110° C., and stirred for 7 hours. After having been left to be at 70° C. the reaction mixture was poured into ice water. After pH of the mixture was made to be about 4 with an aqueous solution of sodium hydroxide added thereto, and precipitated crystals were taken out through filtration and dried to obtain 10.55 g of 1-methyl-3-trifluoromethyl-5-chloropyrazole-4-carbaldehyde.

reactant | phosphorus oxychloride | 21.35 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-methyl-3-trifluoromethyl-5-pyrazolone | 10.71 g | CN1NC(=CC1=O)C(F)(F)F | C5H5F3N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMF | 4.72 g | CN(C)C=O | C3H7NO
product | 1-methyl-3-trifluoromethyl-5-chloropyrazole-4-carbaldehyde | 10.55 g | CN1N=C(C(=C1Cl)C=O)C(F)(F)F | C6H4ClF3N2O
